US07935725B2
Step B: 2-[4-(2-Methanesulfonyl-ethyl)-phenoxy]-6-methyl-benzothiazole.
To a solution of 2-[4-(6-methyl-benzothiazol-2-yloxy)-phenyl]-ethanol (6.8 g, 23.8 mmol) and dimethylaminopyridine (290 mg, 2.4 mmol) in CH2Cl2 (80 mL) was added (i-Pr)2NEt (4.9 g, 28.6 mmol) followed by the addition of methanesulfonyl chloride (2.2 mL, 28.6 mmol) at 0° C. The reaction was warmed to rt and stirred for 15 min. The reaction was washed with satd. aq. Na2CO3 (75 mL), 5% aq. H2SO4 (75 mL) and brine. The organic layer was dried (Na2SO4), filtered and concentrated to afford the title compound (7.3 g, 85%). 1H NMR (500 MHz, CDCl3): 7.61 (d, J=8.3 Hz, 1H), 7.47 (s, 1H), 7.36-7.29 (m, 4H), 7.20 (dd, J=8.3, 1.2 Hz, 1H), 4.45 (t, J=6.8 Hz, 2H), 3.10 (t, J=6.8 Hz, 2H), 2.91 (s, 3H), 2.44 (s, 3H).

reactant | 2-[4-(6-methyl-benzothiazol-2-yloxy)-phenyl]-ethanol | 23.8 mmol, 6.8 g | CC1=CC2=C(N=C(S2)OC2=CC=C(C=C2)CCO)C=C1 | C16H15NO2S
reactant | dimethylaminopyridine | 2.4 mmol, 290 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | (i-Pr)2NEt | 28.6 mmol, 4.9 g | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 28.6 mmol, 2.2 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(2-Methanesulfonyl-ethyl)-phenoxy]-6-methyl-benzothiazole | 7.3 g, 85% | CS(=O)(=O)CCC1=CC=C(OC=2SC3=C(N2)C=CC(=C3)C)C=C1 | C17H17NO3S2
